US04762844
2. 3-Amino-2,5-dichloro-4-methylbenzoic acid
43 g of 2,5-dichloro-4-methyl-3-nitrobenzoic acid and 108.8 g of Na2S2O4 are boiled in a mixture of 340 ml of glycol monomethyl ether and 340 ml of water for 3 hours. 480 ml of 1/2-concentrated HCl are added to the still warm solution and the mixture is then boiled up once again. After cooling to room temperature, the mixture is poured into 1 l of ice-water and the strongly acid solution is buffered with Na2CO3 (pH 5). The solid which has precipitated is isolated and dried. Melting point: 218°-21°, yield: 32.5 g.

reactant | 2,5-dichloro-4-methyl-3-nitrobenzoic acid | 43 g | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])C)Cl | C8H5Cl2NO4
reactant | Na2S2O4 | 108.8 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | HCl | 480 ml | Cl | ClH
reactant | Na2CO3 | pH 5 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | glycol monomethyl ether | 340 ml | COCCO | C3H8O2
solvent | water | 340 ml | O | H2O
product | 3-Amino-2,5-dichloro-4-methylbenzoic acid | NC=1C(=C(C(=O)O)C=C(C1C)Cl)Cl | C8H7Cl2NO2
